US05614633
To a mixture of 0.16 g of 6-pentafluoroethyl-2,2-bisfluoromethyl-4-(2-thioxo-1-pyrrolidinyl)-2H-1-benzopyran, 0.78 g of iodomethane, 0.41 g of nitromethane and 6 ml of tetrahydrofuran was added 0.10 g of sodium hydride (60%) at room temperature with stirring. The mixture was refluxed with heating for 2 hours. After addition of ice water, the mixture was extracted with methylene chloride. The organic layer was washed with water and dried. The solvent was distilled off and the resultant residue was purified using silica gel column chromatography (developing solution, MeOH:CH2Cl2 =1:99) to obtain 0.02 g of 6-pentafluoroethyl-2,2-bisfluoromethyl-4-(2-nitromethylene-1-pyrrolidinyl)-2H-1-benzopyran represented by the following formula having a melting point of 195°-197° C.

reactant | 6-pentafluoroethyl-2,2-bisfluoromethyl-4-(2-thioxo-1-pyrrolidinyl)-2H-1-benzopyran | 0.16 g | FC(C(F)(F)F)(C=1C=CC2=C(C(=CC(O2)(CF)CF)N2C(CCC2)=S)C1)F | C17H14F7NOS
reactant | iodomethane | 0.78 g | IC | CH3I
reactant | nitromethane | 0.41 g | [N+](=O)([O-])C | CH3NO2
reactant | sodium hydride | 0.10 g | [H-].[Na+]
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | 6-pentafluoroethyl-2,2-bisfluoromethyl-4-(2-nitromethylene-1-pyrrolidinyl)-2H-1-benzopyran | 0.02 g | FC(C(F)(F)F)(C=1C=CC2=C(C(=CC(O2)(CF)CF)N2C(CCC2)=C[N+](=O)[O-])C1)F | C18H15F7N2O3
